US08664228B2
Step 4: 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [5-[4-((S)-2,3-dihydroxy-propoxy)-phenyl]-2-(2,4-dimethoxy-benzylamino)-pentyl]amide
To a solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid {2-(2,4-dimethoxy-benzylamino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentyl}-amide (391 mg, 0.62 mmol) in DCM (3 mL) is added TFA (3 mL) and the reaction is stirred at RT for 72 h. The solvent is removed in vacuo and the residue is diluted with water (20 mL) and EtOAc (20 mL). The layers are separated and the aqueous phase is neutralised with aqueous sodium hydroxide and then extracted with EtOAc (2×20 mL). The EtOAc extracts are combined and dried (MgSO4), filtered and the solvent is removed in vacuo. Chromatography (SiO2, MeOH:DCM, 1:9) affords the title compound as a colourless solid as a mixture of diastereoisomers. [M+H]+ 589. 1H NMR (400 MHz, CDCl3) δ 7.63 (1H, br), 7.05 and 7.04 (1H, 2×d), 6.98 and 6.97 (2H, 2×d), 6.73 and 6.71 (2H 2×d), 6.36 and 6.35 (1H, 2×d), 6.34 and 6.30 (1H, 2×s), 5.15 (2H, br), 4.08-3.59 (8H, m), 3.71 (3H, s), 3.65 (3H, s), 3.50-3.41 (2H, m) 2.55 and 2.49 (2H, 2×t), 1.80-1.29 (4H, m).

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid {2-(2,4-dimethoxy-benzylamino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentyl}-amide | 0.62 mmol, 391 mg | COC1=C(CNC(CNC(=O)C2=NC(=C(N=C2N)N)Cl)CCCC2=CC=C(C=C2)OC[C@H]2OC(OC2)(C)C)C=CC(=C1)OC | C31H41ClN6O6
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [5-[4-((S)-2,3-dihydroxy-propoxy)-phenyl]-2-(2,4-dimethoxy-benzylamino)-pentyl]amide | O[C@H](COC1=CC=C(C=C1)CCCC(CNC(=O)C1=NC(=C(N=C1N)N)Cl)NCC1=C(C=C(C=C1)OC)OC)CO | C28H37ClN6O6
